* Source File: SpeakerBlock.asc
* Developer: ETech (eetech00@yahoo.com)
* Created: Oct 25 2014
* Revision: NA
*
* This Loudspeaker spice model was tested with
* LTSpice IV. Temperature is not modeled. It is
* intended to be used as a test aid for audio
* crossover networks.
*
* The following parameters can usually be supplied
* directly from the speaker specification sheet
* Parameters:
* Re = Measured Voice Coil Resistance
* Le = Measured Voice Coil Inductance
* Fs = Resonant Frequency
* Qms = Mech Suspension control measurement (Surround and Spider)
* Qes = Electrical Suspension control measurement (Voice coil and Magnet)
*
* Calculations:
* Res = (Qms / Qes) * Re = (Core & Suspension Losses)
* Lces = Re / (2 * pi * Fs * Qes)  = (Cone Mass)
* Cmes = Qes / (2 * pi * Fs * Re) = (Cone Suspension)
*
* Template use info:
* 1. Copy template to appropriate section
*    (Tweeter, Midrange, Woofer, subwoofer section)
* 2. Replace [Name] with unique name (use model number)
* 3. Replace each [value] with appropiate value
* 4. Remove comment character "*" before ".subckt",
*    "XSpkr" and ".ends" statements to activate.
****************Begin Template*****************
* [Description]
*
*.subckt [Name] SPK+ SPK- PARAMS: Re=[value] Le=[value] Fs=[value] Qms=[value] Qes=[value]
*
** Do not edit line below, but remove leading "*" character
*XSpkr SPK+ SPK- speaker Re1={Re} Le1={Le} Fs1={Fs} Qms1={Qms} Qes1={Qes}
*
*.ends [Name]
****************END Template*******************
*
*
* Subckt Symbol Definitions
*
*
* TWEETER
***********************************************
* Dayton Audio DC28F-4 1-1/8" Silk Dome Tweeter
*
.subckt DC28F4 SPK+ SPK- PARAMS: Re=2.82 Le=0.51m Fs=535 Qms=2.3 Qes=0.99
*
XSpkr SPK+ SPK- speaker Re1={Re} Le1={Le} Fs1={Fs} Qms1={Qms} Qes1={Qes}
*
.ends DC28F4
*
* Dayton Audio DC28F-8 1-1/8" Silk Dome Tweeter
*
.subckt DC28F8 SPK+ SPK- PARAMS: Re=5.5 Le=0.09m Fs=637.2 Qms=0.82 Qes=0.90
*
XSpkr SPK+ SPK- speaker Re1={Re} Le1={Le} Fs1={Fs} Qms1={Qms} Qes1={Qes}
*
.ends DC28F8

*
* Focal Tc120td5 20mm Tioxid Dome Tweeter
*
.subckt Tc120td5 SPK+ SPK- PARAMS: Re=6 Le=1.49m Fs=812.7 Qms=2.79 Qes=1.15
*
XSpkr SPK+ SPK- speaker Re1={Re} Le1={Le} Fs1={Fs} Qms1={Qms} Qes1={Qes}
*
.ends Tc120td5

* Focal Tc120tdx 20mm Tioxid Dome Tweeter
*
.subckt Tc120tdx SPK+ SPK- PARAMS: Re=5.7 Le=0.08m Fs=1181 Qms=2.16 Qes=1.42
*
XSpkr SPK+ SPK- speaker Re1={Re} Le1={Le} Fs1={Fs} Qms1={Qms} Qes1={Qes}
*
.ends Tc120tdx
*
*
* MIDRANGE
***********************************************
* Dayton Audio DC50FA-8 Classic Series 2" Dome Midrange
*
.subckt DC50FA8 SPK+ SPK- PARAMS: Re=4.50 Le=0.41m Fs=380 Qms=4.13 Qes=1.16
*
XSpkr SPK+ SPK- speaker Re1={Re} Le1={Le} Fs1={Fs} Qms1={Qms} Qes1={Qes}
*
.ends DC50FA8
*
*
* WOOFER
***********************************************
* Dayton Audio RS225-8 8" Reference Woofer
*
.subckt RS2258 SPK+ SPK- PARAMS: Re=6.53 Le=0.86m Fs=28 Qms=1.46 Qes=0.51
*
XSpkr SPK+ SPK- speaker Re1={Re} Le1={Le} Fs1={Fs} Qms1={Qms} Qes1={Qes}
*
.ends RS2258
*
*
* SUBWOOFER
***********************************************
* Dayton Audio IB385-8 8" Reference Woofer
*
.subckt IB3858 SPK+ SPK- PARAMS: Re=5.2 Le=3.08m Fs=21.5 Qms=8.92 Qes=0.63
*
XSpkr SPK+ SPK- speaker Re1={Re} Le1={Le} Fs1={Fs} Qms1={Qms} Qes1={Qes}
*
.ends IB3858
*
*
* Main speaker model definition (do not edit)
***********************************************
.subckt speaker SP+ SP- Re2={Re1} Le2={Le1} Fs2={Fs1} Qms2={Qms1} Qes2={Qes1}
*
.param Re = {Re2}
.param Le = {Le2}
.param Res = {(Qms2 / Qes2) * Re2}
.param Lces = {Re2 / (2 * pi * Fs2 * Qes2)}
.param Cmes = {Qes2 / (2 * pi * Fs2 * Re2)}
*
L2 SP- 3 {Lces}
C1 3 SP- {Cmes}
L1 2 3 {Le}
R2 3 SP- {Res}
R1 2 SP+ {Re}
*
.ends speaker
